US08247112B2
To 236 g (0.5 mol) of a commercially available 25% solution of triethylphosphine (product name: HISHICOLIN (registered trademark) P-2, manufactured by Nippon Chemical Industrial Co., Ltd.) in toluene, 127 g (0.5 mol) of 1-bromododecane (reagent, manufactured by Tokyo Chemical Industry Co., Ltd.) was added dropwise under a nitrogen atmosphere, and the mixture was reacted at 70 to 80° C. for 5 hours. After the reaction was completed, 100 ml of hexane was added to the reaction mixture to precipitate crystals. The resulting crystals were filtered and vacuum dried under a degree of vacuum of 0.5 kPa at 80° C. for 3 hours to obtain 166 g (yield 90%) of triethyl-n-dodecylphosphonium bromide. To 110 g (0.3 mol) of the resulting triethyl-n-dodecylphosphonium bromide, pure water was added to form a 50% aqueous solution. Thereto, was added 86 g (0.3 mol) of lithium bis(trifluoromethylsulfonyl)imide (reagent, manufactured by Kanto Chemical Co., Inc.) to allow them to react with each other, followed by stirring for 2 hours at room temperature for aging. After the completion of aging with stirring, the lower layer side (product) was separated from the mixture in the form of an upper and lower two-layer structure, washed four times with pure water, and then washed four times with n-hexane. After the completion of the washing, the product was vacuum dried under a degree of vacuum of 0.5 kPa at 80° C. for 3 hours. The structure of the product was examined by 1H-NMR, 13C-NMR, 19F-NMR, and 31P-NMR. The product was identified as triethyl-n-dodecylphosphonium bis(trifluoromethylsulfonyl)imide (TEDP-TFSI), and it had a purity of 99%. The resulting TEDP-TFSI was a colorless transparent liquid at room temperature (25° C.), which had a moisture content determined by the Karl Fischer titration method of 73 ppm and a chlorine content determined by ion chromatography of 8 ppm. The amount of the product yielded was 150 g (yield 88%). The product had an electrical conductivity at 25° C. of 0.47 mS/cm.

reactant | triethylphosphine | C(C)P(CC)CC | C6H15P
reactant | 1-bromododecane | 0.5 mol, 127 g | BrCCCCCCCCCCCC | C12H25Br
reactant | hexane | 100 ml | CCCCCC | C6H14
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | triethyl-n-dodecylphosphonium bromide | 166 g, yield 90% | [Br-].C(C)[P+](CCCCCCCCCCCC)(CC)CC | InChI=1S/C18H40P.BrH/c1-5-9-10-11-12-13-14-15-16-17-18-19(6-2,7-3)8-4;/h5-18H2,1-4H3;1H/q+1;/p-1
